US07935815B2
Synthesis of 2-{(E)-2-[6-methoxy-5-(4-methyl-1H-imidazol-1-yl)pyridin-2-yl]vinyl}-8-(2-trifluoromethylphenyl)-5,6-dihydro[1,2,4]triazolo[1,5-a]pyridine
2-{(E)-2-[6-Methoxy-5-(4-methyl-1H-imidazol-1-yl)pyridin-2-yl]vinyl}-8-(2-trifluoromethylphenyl)-5,6,7,8-tetrahydro-[1,2,4]triazolo[1,5-a]pyridin-8-ol (56 mg) was dissolved in dichloromethane (2 ml). Diethylaminosulfur trifluoride (45 ul) was added under ice-cooling, and the reaction solution was stirred at room temperature for three hours. Thereafter, diethylaminosulfur trifluoride (45 ul) was added again at room temperature, and the reaction solution was further stirred at room temperature overnight. Ethyl acetate and water were added to the reaction solution, and the organic layer was separated. The resulting organic layer was washed with brine and then dried over anhydrous sodium sulfate. The drying agent was separated by filtration and then the organic layer was concentrated under reduced pressure. The residue was separated by CHIRALPAK™ IB manufactured by Daicel Chemical Industries, Ltd. (2 cm×25 cm; mobile phase: hexane:ethanol=1:1) to obtain the title compound (20 mg). The property values of the compound are as follows.

reactant | 2-{(E)-2-[6-Methoxy-5-(4-methyl-1H-imidazol-1-yl)pyridin-2-yl]vinyl}-8-(2-trifluoromethylphenyl)-5,6,7,8-tetrahydro-[1,2,4]triazolo[1,5-a]pyridin-8-ol | 56 mg | COC1=C(C=CC(=N1)/C=C/C1=NN2C(C(CCC2)(O)C2=C(C=CC=C2)C(F)(F)F)=N1)N1C=NC(=C1)C | C25H23F3N6O2
reactant | Diethylaminosulfur trifluoride | 45 ul | C(C)N(CC)S(F)(F)F | C4H10F3NS
reactant | diethylaminosulfur trifluoride | 45 ul | C(C)N(CC)S(F)(F)F | C4H10F3NS
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 2-{(E)-2-[6-methoxy-5-(4-methyl-1H-imidazol-1-yl)pyridin-2-yl]vinyl}-8-(2-trifluoromethylphenyl)-5,6-dihydro[1,2,4]triazolo[1,5-a]pyridine | 20 mg | COC1=C(C=CC(=N1)/C=C/C1=NN2C(C(=CCC2)C2=C(C=CC=C2)C(F)(F)F)=N1)N1C=NC(=C1)C | C25H21F3N6O
